US07858646B2
Synthesis of 5-(4-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio)nicotinonitrile
Using the method of Preparation 160 using 5-(4-(hydroxymethyl)phenylthio) nicotinonitrile (1.20 g, 4.95 mmol) and 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone (937 mg, 5.20 mmol) affords the title compound (750 mg, 37%): 1H NMR (CDCl3) δ 1.15 (t, J=7.64 Hz, 3H), 2.57 (s, 3H), 2.76 (q, J=7.6 Hz, 2H), 5.22 (s, 2H), 6.47 (d, J=9.0 Hz, 1H), 7.49 (d, J=8.2 Hz, 2H),), 7.52 (d, J=8.2 Hz, 2H), 7.60 (d, J=9.0 Hz, 1H), 7.63 (dd, J=2.0, 2.3 Hz, 1H), 8.64 (t, J=2.0 Hz, 2H), 12.75 (s, 1H).

reactant | 5-(4-(hydroxymethyl)phenylthio) nicotinonitrile | 4.95 mmol, 1.20 g | OCC1=CC=C(C=C1)SC=1C=NC=C(C#N)C1 | C13H10N2OS
reactant | 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone | 5.20 mmol, 937 mg | C(C)C=1C(=C(C=CC1O)C(C)=O)O | C10H12O3
product | 5-(4-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio)nicotinonitrile | 750 mg, 37% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)SC=2C=NC=C(C#N)C2)C=C1)CC)O | C23H20N2O3S
